US05559267
1,1'-Bis ((2R,5R),2,5-diethylphospholano) ferrocene
To a solution of 1,1'-bis(phosphino)ferrocene (0.2 g, 0.8 mmol) in THF (30 mL) was added dropwise via syringe n-BuLi (1.0 mL of a 1.6M solution in hexane, 2.0 equiv. ). The orange solution was allowed to stir for 1.5 h during which it became slightly cloudy. To the resulting mixture was then added a THF solution (10 mL) of (3S, 6S)-3, 6-octanediol cyclic sulfate (0.338 g, 1.6 mmol). After stirring for 1 h, n-BuLi (1.15 mL of a 1.6M hexane solution, 2.2 equiv.) was again added dropwise via syringe. The mixture was allowed to stir for 1.5 h, after which MeOH (3 mL) was added to quench any excess n-BuLi remaining. The resulting orange mixture was concentrated to produce a gelatinous residue which was extracted with pentane (150 mL) and filtered. Concentration of the filtrate to 5 mL and cooling to -30° C. for 10 h afforded the product as an orange crystalline solid which was filtered, washed with cold MeOH and dried (0.29 g, 77%). The crude product was essentially pure and may be used without any further purification. 1H NMR (C6D6) δ0.88 (m, 6H, CH3), 0.9-1.20 (m, 4H, CH2), 1.11 (t, JHH =7.3 Hz, 6H, CH3), 1.20-1.40 (m, 4H, CH2), 1.45-1.70 (m, 4H, CH2), 1.70-1.90 (m, 4H, CH), 2.10 (m (br), 2H, CH2), 2.40 (m, 2H, CH), 3.90 (m, 1H, CpH), 4.25 (m, 2H, CpH), 4.35 (m, 1H, CpH); 31P NMR (C6D6) δ-9.4; 13C NMR (C6D6) 5 14.27 (d, JPC =16.1 Hz), 14.82 (d, JPC =7.9 Hz), 23.76, 30.07, 30.49, 34.03, 34.34 (d, JPC =4.4 Hz), 42.42 (d, JCP =9.9 Hz), 44.44 (d, JCP =11.9 Hz), 70.88 (d, JCP =6.2 Hz), 71.24, 71.96 (d, JCP =7.7 Hz), 77.33 (d, JCP =32.8 Hz); HRMS (EI, direct insert): m/z 470.1976 (M+, exact mass calcd for C26H40P2Fe: 470.1955), 359.0485 (M-C8H15) , 328.1046 (M-C8H15 P).

reactant | 1,1'-bis(phosphino)ferrocene | 0.8 mmol, 0.2 g | P[C-]1C=CC=C1.[C-]1(C=CC=C1)P.[Fe+2]
reactant | n-BuLi | [Li]CCCC
reactant | MeOH | 3 mL | CO | CH4O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | hexane | 1.6M | CCCCCC | C6H14
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | ferrocene | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/2C5H5.Fe/c2*1-2-4-5-3-1;/h2*1-5H;/q2*-1;+2
